US08278457B2
Synthesis of cis-N-[4-(4-bromophenoxy)tetrahydrofuran-3-yl]propane-2-sulfonamide
The title compound was prepared according to the general procedure for the synthesis of cis-N-{4-[(6-bromopyridin-3-yl)oxy]tetrahydrofuran-3-yl}propane-2-sulfonamide in Preparation 1, except that trans-4-(4-bromophenoxy)tetrahydrofuran-3-yl methanesulfonate was used in place of trans-4-[(6-bromopyridin-3-yl)oxy]tetrahydrofuran-3-yl methanesulfonate, and the chromatographic purification was carried out with a gradient of 15% to 35% acetone in heptane. Yield: 238 mg, 0.65 mmol, 31%. 1H NMR (400 MHz, CDCl3) δ 1.30 (d, J=6.8 Hz, 3H), 1.33 (d, J=6.8 Hz, 3H), 3.11 (septet, J=6.8 Hz, 1H), 3.66 (dd, J=9.1, 8.4 Hz, 1H), 3.89 (dd, J=10.7, 1.7 Hz, 1H), 4.07-4.13 (m, 2H), 4.19 (m, 1H), 4.71 (m, 1H), 5.12 (d, J=9.6 Hz, 1H), 6.75 (d, J=9.0 Hz, 2H), 7.36 (d, J=9.0 Hz, 2H).

reactant | cis-N-{4-[(6-bromopyridin-3-yl)oxy]tetrahydrofuran-3-yl}propane-2-sulfonamide | BrC1=CC=C(C=N1)O[C@@H]1[C@@H](COC1)NS(=O)(=O)C(C)C | C12H17BrN2O4S
reactant | trans-4-(4-bromophenoxy)tetrahydrofuran-3-yl methanesulfonate | CS(=O)(=O)O[C@@H]1COC[C@H]1OC1=CC=C(C=C1)Br | C11H13BrO5S
product | cis-N-[4-(4-bromophenoxy)tetrahydrofuran-3-yl]propane-2-sulfonamide | BrC1=CC=C(O[C@@H]2[C@@H](COC2)NS(=O)(=O)C(C)C)C=C1 | C13H18BrNO4S
